2133-08-11 07:58:00 Physician Resident Progress Note
Chief Complaint: Chest pain
   24 Hour Events:
 MULTI LUMEN - START [**2133-8-10**] 11:17 PM
 URINE CULTURE - At [**2133-8-11**] 02:06 AM
 BLOOD CULTURED - At [**2133-8-11**] 05:12 AM
   negative enzuymes
   Allergies:
   SKin reaction
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2133-8-11**] 02:06 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-11**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 75 (73 - 101) bpm
   BP: 95/58(66) {94/58(66) - 102/65(74)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                      5 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                      5 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    320 mL
   Urine:
   320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      5 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   16 K/uL
   8.4 g/dL
   147 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   19 mg/dL
   105 mEq/L
   136 mEq/L
   24.4 %
   0.4 K/uL
        [image002.jpg]
                             [**2133-8-11**]  01:41 AM
                             [**2133-8-11**]  04:47 AM
   WBC
   0.3
   0.4
   Hct
   23.1
   24.4
   Plt
   19
   16
   Cr
   0.8
   TropT
   <0.01
   Glucose
   147
   Other labs: CK / CKMB / Troponin-T:[**10-20**]/<0.01, Differential-Neuts:84.0
   %, Band:0.0 %, Lymph:16.0 %, Mono:0.0 %, Eos:0.0 %, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assesment: 51 yoF w/ a h/o progressive DLBCL despite multiple treatment
   courses presents with chest pain and hypotension in the setting of plt
   transfusion.
   .
   Plan:
   # Chest pain/hypotension: Patient with cancer, s/p radiation and
   chemotherapy with subtle diffuse EKG changes and new small pericardial
   effusion that is not impairing the homodynamic, but may be causing
   chest pain. This would be compatible with the picture of pericarditis.
   However, treatment cannot be given in the setting of low platelets. In
   the other hand, patient presented with sudden pain and with
   bradycardia, which may suggest esophageal spasm with posterior
   vaso-vagal in the setting of low intravascular volume, mostly in a
   patient with history of bad reflux and GI ulcers. Another possibility
   is anxiety or TRAP.
   -          Follow homodynamic parameters
   -          [**Month (only) 8**] be able to go to floor if stable in PM
   -          Measure CVP; goal [**4-26**].
   -          Fluids if hypotensive
   -          Continue antibiotics for now (cefepime for neutropenia in
   setting of possible infection)
   -          Continue levofloxacin for UTI
   # Thomrobycotpenia: transfuse with a goal of >10,000
   # ID: as above in addition continue acyclovir and nystatin.
   .
   # GI: lymphoma ulcer on recent EGD.
   -no perforation per CT abdomen
   -continue sucralfate and PPI [**Hospital1 **]
   .
   # Lymphoma: DLBCL which has progressed through multiple courses of
   chemotherapy.
   -discuss w/ BMT team in a.m. further management for the patient's
   lymphoma
   .
   # ANEMIA: tx for hct < 21.  tx plts < 10.
   .
   # FEN:  regular diet, PPI as above
   .
   # Access  Central line, IJ
   .
   # PPx:  pneumoboots (no sc heparin as thrombocytopenic)
   .
   # Code:  FULL
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-10**] 11:17 PM
   22 Gauge - [**2133-8-10**] 11:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-08-12 06:38:00 Physician Resident Progress Note
Chief Complaint: 51 yoF w/ a h/o progressive DLBCL despite multiple
   treatment courses presents with chest pain and hypotension in the
   setting of plt transfusion.
   24 Hour Events:
 EKG - At [**2133-8-11**] 08:10 AM
 BLOOD CULTURED - At [**2133-8-11**] 12:15 PM
   blood c/s 2 of 2
 EKG - At [**2133-8-11**] 06:48 PM
 EKG - At [**2133-8-12**] 04:52 AM
   Patient with persistent hypotension yesterday. originally plan was to
   d/c to floor, however given persistent hypotension was not able to.
   Did [**Last Name (un) **] stim test. Started patient on 1 x stress dose steroids. as
   [**Last Name (un) **] stim test was normal decided to continue treatment with lower dose
   steroids 20 IV solumedral [**Hospital1 **].   repeat chest x-ray demonstrated some
   left heart border opacification which may represent atelectastis vs.
   pnuemonia.  Patient was started on vancomycin in addition to cefepime
   for broader coverage in the setting of febrile neutropenia. Patient
   also was started on levofed drip.  attempted 4 times to come off
   overnigth but was unsuccessful as pressures would continue to drop into
   mid 80s.  Patient also received 1 unit of blood yesterday evening
   because SvO2 was in the 62 in the setting of hypotension.  Started
   Tylenol and increased dose of oxycodone for pain. No new micro data.
   Allergies:
   SKin reaction
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2133-8-12**] 12:06 AM
   Vancomycin - [**2133-8-12**] 01:19 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2133-8-12**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 64 (62 - 96) bpm
   BP: 109/64(75) {73/41(49) - 124/70(83)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.6 kg (admission): 88.5 kg
    CVP: 14 (7 - 15)mmHg
   Mixed Venous O2% Sat: 62 - 62
   Total In:
                                                                  2,943 mL
                                                                    475 mL
   PO:
                                                                    450 mL
   TF:
   IVF:
                                                                  2,207 mL
                                                                    475 mL
   Blood products:
                                                                    286 mL
   Total out:
                                                                  1,745 mL
                                                                    460 mL
   Urine:
                                                                  1,745 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,198 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal), + RUB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time and place, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   10 K/uL
   8.4 g/dL
   129 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   21 mg/dL
   109 mEq/L
   140 mEq/L
   24.1 %
   0.8 K/uL
        [image002.jpg]
                             [**2133-8-11**]  01:41 AM
                             [**2133-8-11**]  04:47 AM
                             [**2133-8-12**]  04:33 AM
   WBC
   0.3
   0.4
   0.8
   Hct
   23.1
   24.4
   24.1
   Plt
   19
   16
   10
   Cr
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   147
   129
   Other labs: PT / PTT / INR:14.3/29.8/1.2, CK / CKMB /
   Troponin-T:[**10-20**]/<0.01, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:0.0 %, Eos:0.0 %, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   Assesment: 51 yoF w/ a h/o progressive DLBCL despite multiple treatment
   courses presents with chest pain and hypotension in the setting of plt
   transfusion.
   .
   Plan:
   # HYPOTENSION: In terms of causes for hypotension differential is broad
   and includes distributive, obstructive shock, cardiogenic, adrenal
   insufficiency or anaphylactic.  The patient was receiving platelets and
   magnesium prior to her hypotensive episode, hypotension can occur with
   IV magnesium however this was prolonged and after the infusion had
   stopped and the hypotension in would be rate related.  No chills /
   rigors or other symptoms / signs to signify transfusion reaction but
   had also rec'd 10mg dexamethasone prior to transfer to ICU.
   Transfusion reaction would not be expected to cause hypotension unless
   it were of an anaphylactic variety and in that case other symptoms such
   as respiratory distress may be notable.
   Given neutropenia and new infiltrate on chest x-ray pneumonia  is also
   possibility.  UA unremarkable so UTI is unlikely source. CTA was
   negative for signs of PE. Troponins were negative ruling out
   cardiogenic etiology leading to hypotension. EKG with diffuse ST
   elevations however no evidence for tamponade on echo. Suspect
   clinically pericarditis given clinical presentation. Cortisol level
   measured yesterday afternoon was 3. With [**Last Name (un) **] stim went to 24 which
   indicates likely relative adrenal insufficiency in a patient who has
   been on steroids in the past for chemotherapy.
   - given one dose stress dose steroid 50 IV yesterday, will continue at
   stress dose levels for now given hypotension, also suspect that iv
   steroids will help with inflammation if patient with clinical evidence
   of pericarditis
   - had to be restarted on iv levofed yesterday evening for blood
   pressures of 80s to maintain MAPs > 60, attempted to wean x4 but was
   unsuccessful, will attempt to wean again today
   -started initially on cefepime for empiric for neutropenic hypotension
   and concern for sepsis
   - added vancomycin yesterday in the setting of possible new infiltrate
   on chest x-ray, may represent infection, or alternatively and more
   likely atelectasis in the setting of not taking deep breaths secondary
   to pain
   -blood cultures pending
   -mycolitic blood cultures, beta glucan and galactomannan given multiple
   rounds of chemotherapy and immune suppression pending
   -Central venous line placed
   -maintained CVP of [**10-1**] even during repeated episodes of hypotension
   - AM CVP was 13
   - will check SvO2 again today and consider additional blood transfusion
   if low as crit still remains 24 in the setting of hypotension on
   pressors
   - follow-up with repeat EKG
   .# ID: as above in addition continue acyclovir and nystatin for
   neutropenic prophylaxis.
   .
   # GI: lymphoma ulcer on recent EGD.
   -no perforation per CT abdomen
   -continue sucralfate and PPI [**Hospital1 **]
   .
   # Lymphoma: DLBCL which has progressed through multiple courses of
   chemotherapy.
   -BMT recs to start iv steroids and possibly cover for pnuemonia as
   above, will follow-up with new thoughts today
   .
   # Chest pain: Patient with repeated episode of chest pain in the same
   locatin which is worse with inspiration.  Pain is concerning for
   pericarditis, the patient also has a small but new pericardial effusion
   on chest CT and echo.  Also with diffuse ST segment changes.
   Hypotensive but pulsus is 4 and echo is negative for any signs of
   tamponade.  Pain may also be secondary to esophageal spasms in the
   setting of gastric ulcer and radiation, however this clinically does
   not fit with hypotension.   Another possibility is that patient is
   anxious and this represents a manifestation of that, however again this
   doesn
t clinically fit with hypotesnsion.
   -repeat EKG from yesterday looks the same as previous, put in for
   official ekg this am and will follow-up with results
   -prelim read CTA chest .
   No PE in main, lobar or segmental branches. Small pericardial effusion
   is
   new. No consolidation, pleural effusion or pneumothorax.
   Appearance of the stomach similar with prominent folds. No acute
   abdominal
   process.
   -pain possibly related to gastric ulcer, however less likely given
   location
   -enzymes negative, telemetry monitoring, started tylenol for pain,
   cannot give aspirin given thrombocytopenia, in addition increased
   oxycodone dosing to 10 mg PO PRN
   -in addition patient felt anxious during this episode so this may be a
   possibility, and her pain initially improved w/ ativan
   .
   # ANEMIA: tx for hct < 21.  tx plts < 10
   - this Am platelets are 10, no active signs of bleed, will send PM CBC
   .
   # FEN:  regular diet, PPI as above, patient still without bowel
   movement although not eating much
   .
   # Access  Central line, IJ
   .
   # PPx:  pneumoboots (no sc heparin as thrombocytopenic), Ppi, colace,
   senna
   .
   # Code:  FULL
   .
   # Dispo:  ICU until blood pressure normalizes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-10**] 11:17 PM
   22 Gauge - [**2133-8-10**] 11:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-08-13 07:10:00 Physician Resident Progress Note
Chief Complaint: 51 year old female with a histoyr of pregressive DLBCL
   despite mutliple treatment curses presents with chest pain and
   hypotension in the setting of platelet transfusion. differential
   diagnosis includes sepsis vs. adrenal insufficiency
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2133-8-12**] 04:21 PM
   bed side echo done
   Patient had repeat echo done yesterday as concern over possible
   tamponade. Onc reccomeded checking lfts too.  Levofed was d/c yesterday
   after tranfusion of another unit of pRBCs (CvO2 61%).  Patient remained
   off pressors overnight with stable blood pressures.  one blood culture
   now + for yeast. Patient reports improvement in chest pain. Now states
   that furthur down in her abdomen where her more typical pain is. No
   shortness of breath or abdominal pain. Patient tolerating po liquids
   such as ensure.
   Allergies:
   SKin reaction
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2133-8-12**] 07:27 PM
   Cefipime - [**2133-8-12**] 11:40 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-8-12**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2133-8-13**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 72 (59 - 88) bpm
   BP: 112/56(68) {84/46(55) - 134/65(83)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.6 kg (admission): 88.5 kg
    CVP: 7 (7 - 347)mmHg
   Mixed Venous O2% Sat: 61 - 61
   Total In:
                                                                  2,035 mL
                                                                     91 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  1,360 mL
                                                                     91 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,715 mL
                                                                    660 mL
   Urine:
                                                                  1,715 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                   -569 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, sitting up in bed, conversant,
   pleasant.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no rub
   appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear bilaterally : )
   Abdominal: Soft, mild tenderness to palpation over epigastrium, Bowel
   sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, and place, Movement: purposeful
   movement of all 4 extremities
   Labs / Radiology
   6 K/uL
   9.7 g/dL
   112 mg/dL
   0.7 mg/dL
   26 mEq/L
   2.9 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   26.5 %
   1.2 K/uL
        [image002.jpg]
                             [**2133-8-11**]  01:41 AM
                             [**2133-8-11**]  04:47 AM
                             [**2133-8-12**]  04:33 AM
                             [**2133-8-12**]  04:40 PM
                             [**2133-8-13**]  04:35 AM
   WBC
   0.3
   0.4
   0.8
   0.9
   1.2
   Hct
   23.1
   24.4
   24.1
   25.6
   26.5
   Plt
   19
   16
   10
   10
   6
   Cr
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   147
   129
   112
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:[**10-20**]/<0.01, ALT / AST:68/67, Alk Phos / T Bili:198/1.1,
   Differential-Neuts:78.0 %, Band:1.0 %, Lymph:9.0 %, Mono:12.0 %,
   Eos:0.0 %, Albumin:3.0 g/dL, LDH:160 IU/L, Ca++:9.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Assesment: 51 yoF w/ a h/o progressive DLBCL despite multiple treatment
   courses presents with chest pain and hypotension in the setting of plt
   transfusion.
   .
   Plan:
   # HYPOTENSION: In terms of causes for hypotension differential is broad
   and includes distributive, obstructive shock, cardiogenic, adrenal
   insufficiency or anaphylactic.  The patient was receiving platelets and
   magnesium prior to her hypotensive episode, hypotension can occur with
   IV magnesium however this was prolonged and after the infusion had
   stopped and the hypotension in would be rate related.  No chills /
   rigors or other symptoms / signs to signify transfusion reaction but
   had also rec'd 10mg dexamethasone prior to transfer to ICU.
   Transfusion reaction would not be expected to cause hypotension unless
   it were of an anaphylactic variety and in that case other symptoms such
   as respiratory distress may be notable.
   Given neutropenia and new infiltrate on chest x-ray pneumonia  is also
   possibility.  UA unremarkable so UTI is unlikely source. CTA was
   negative for signs of PE. Troponins were negative ruling out
   cardiogenic etiology leading to hypotension. EKG with diffuse ST
   elevations however no evidence for tamponade on echo. Suspect
   clinically pericarditis given clinical presentation. Cortisol level
   measured yesterday afternoon was 3. With [**Last Name (un) **] stim went to 24 which
   indicates likely relative adrenal insufficiency in a patient who has
   been on steroids in the past for chemotherapy.
   - on stress dose hydrocortisone started PM [**8-11**], also suspect that iv
   steroids will help with inflammation if patient with clinical evidence
   of pericarditis, also on [**8-12**] started on fludrocort in addition
   - s/p another 1 unit pRBC yesterday
   - off levofed
   -started initially on cefepime for empiric for neutropenic hypotension
   and concern for sepsis, added vancomycin  in the setting of possible
   new infiltrate on chest x-ray, may represent infection, or
   alternatively and more likely atelectasis in the setting of not taking
   deep breaths secondary to pain
   -blood cultures now growing yeast unspeciated in one bottle - consider
   adding anti-fungal coverage in addition
   -mycolitic blood cultures, beta glucan and galactomannan given multiple
   rounds of chemotherapy and immune suppression pending
   - SvO2 yesterday 61
   - EKG from [**8-11**] - ST-T wave configuration suggests acute
   injury/possible pericarditis
   Clinical correlation is suggested. Since previous tracing of the same
   date, no significant change
   - repeat echo [**8-12**] - Left ventricular wall thickness, cavity size, and
   global systolic function are normal (LVEF>55%). There is a very small
   circumferential pericardial effusion without echocardiographic signs of
   tamponade.
   - chest x-ray from [**8-12**] - FINDINGS: In comparison with study of [**8-11**],
   there is little change. Again there is enlargement of the cardiac
   silhouette since the study of [**8-10**]. This is consistent with the small
   pericardial effusion seen on the CT scan of [**8-10**]. Left pleural effusion
   and retrocardiac opacification persists. Right central catheter remains
   in place.
   # ID: as above in addition continue acyclovir and nystatin for
   neutropenic prophylaxis.
   .# GI: lymphoma ulcer on recent EGD.
   -no perforation per CT abdomen
   -continue sucralfate and PPI [**Hospital1 **]
   .
   # Lymphoma: DLBCL which has progressed through multiple courses of
   chemotherapy.
   - cont to follow new onc recs
   .
   # Chest pain: Patient with repeated episode of chest pain in the same
   locatin which is worse with inspiration.  Pain is concerning for
   pericarditis, the patient also has a small but new pericardial effusion
   on chest CT and echo.  Also with diffuse ST segment changes.
   Hypotensive but pulsus is 4 and echo is negative for any signs of
   tamponade on 2 consecutive echos.  Pain may also be secondary to
   esophageal spasms in the setting of gastric ulcer and radiation,
   however this clinically does not fit with hypotension.   Another
   possibility is that patient is anxious and this represents a
   manifestation of that, however again this doesn
t clinically fit with
   hypotesnsion. Pain may also be related to gastric process. Enzymes
   negative. Tylenol changed to PRN with LFT abnormalities, cannot give
   aspirin secondary to thrombocytopenia.
   - final read CTA
   IMPRESSION:
   1. Interval development of small pericardial effusion.
   2. No evidence of pulmonary embolism or aortic dissection.
   3. Redemonstration of confluent soft tissue mass that appears to arise
   from
   the lesser curvature of the stomach and extends to surround the celiac
   axis,
   4. Left adrenal mass.
   5. Hypoattenuating splenic lesion stable.
   - cont oxycodone and tylenol PRN for pain
    # ANEMIA: tx for hct < 21.  tx plts < 10
   - this Am platelets are 6, no active signs of bleed, however will
   require platelet transfusion this morning
   .
   # FEN:  regular diet, PPI
   .
   # Access  Central line, IJ
   .
   # PPx:  pneumoboots (no sc heparin as thrombocytopenic), Ppi, colace,
   senna
   .
   # Code:  FULL
   .
   # Dispo:  should be stable for call out to OMED today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-10**] 11:17 PM
   22 Gauge - [**2133-8-10**] 11:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-08-13 12:28:00 Physician Attending Progress Note
Chief Complaint: Chest Pain
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2133-8-12**] 04:21 PM
   bed side echo done
   ECHO with no change in hemodynamic parameters
   Levophed D/C'd
   Patient states chest discomfort is less intense and is experienced in
   epigastric area rather than sub-sternal as experienced initially
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   SKin reaction
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2133-8-13**] 08:33 AM
   Cefipime - [**2133-8-13**] 08:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-8-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2133-8-13**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 66 (59 - 75) bpm
   BP: 125/63(79) {91/49(59) - 144/72(91)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.6 kg (admission): 88.5 kg
   CVP: 13 (7 - 347)mmHg
   Total In:
                                                                  2,035 mL
                                                                  1,077 mL
   PO:
                                                                    300 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,360 mL
                                                                    777 mL
   Blood products:
                                                                    375 mL
                                                                    200 mL
   Total out:
                                                                  1,715 mL
                                                                  1,120 mL
   Urine:
                                                                  1,715 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   6 K/uL
   112 mg/dL
   0.7 mg/dL
   26 mEq/L
   2.9 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   26.5 %
   1.2 K/uL
        [image002.jpg]
                             [**2133-8-11**]  01:41 AM
                             [**2133-8-11**]  04:47 AM
                             [**2133-8-12**]  04:33 AM
                             [**2133-8-12**]  04:40 PM
                             [**2133-8-13**]  04:35 AM
   WBC
   0.3
   0.4
   0.8
   0.9
   1.2
   Hct
   23.1
   24.4
   24.1
   25.6
   26.5
   Plt
   19
   16
   10
   10
   6
   Cr
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   147
   129
   112
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:[**10-20**]/<0.01, ALT / AST:68/67, Alk Phos / T Bili:198/1.1,
   Differential-Neuts:78.0 %, Band:1.0 %, Lymph:9.0 %, Mono:12.0 %,
   Eos:0.0 %, Albumin:3.0 g/dL, LDH:160 IU/L, Ca++:9.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.8 mg/dL
   Imaging: CXR-Patient with evolution of bilateral peri-hilar fullness
   and suggestion of right sided effusion on film today.
   Microbiology: Blood Culture--single positive for yeast
   Assessment and Plan
   51 yo female admit with chest pain and paroxysms of hypotension
   requiring IV pressor support.  She did have recurrence of hypotension
   here which has been responsive to increased volume and ECHO, ECG and
   cardiac enzymes have failed to show clear evidence of myocardial or
   peri-cardial insult.
   1)Hypotension-
   -Will follow up culture results
   -Vanco/Cefepime
   -Hydrocortison/Fludricortisone started but role in sustaining BP is not
   clear
the argument is that cortisol was low initially and slow taper is
   suggested
   -Will treat for fungal infection with suggestion of candidemia as
   potential player-Caspofungin
   -
   2)Chest Pain-No evidence of myocardial injury or pericardial
   restriction or effusion on repeat ECHO.  [**Month (only) 8**] be GI related either with
   spasm or gastritis but would not explain the hypotension clearly.
   -She does have dyspnea
subtle this morning
and some pulmonary edema
   noted on CXR
   -Move to negative fluid balance today.
   3)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-10**] 11:17 PM
   22 Gauge - [**2133-8-10**] 11:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes